US06329381B1
6-Amino-9-benzyl-2-(2-hydroxyethoxy)purine
To sodium (74 mg, 3.2 mmol) in 5 ml of ethylene glycol were added 6-amino-9-benzyl-2-chloropurine (157 mg, 0.58 mmol). The mixture was heated at 100° C. for 4 hours and concentrated in vacuo to dryness. To the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on magnesium sulfate and the solvent was removed in vacuo. The residue was purified with silica gel chromatography (3% methanol/chloroform) to give the subject compound (121 mg, yield 70%).

reactant | sodium | 3.2 mmol, 74 mg | [Na] | Na
reactant | 6-amino-9-benzyl-2-chloropurine | 0.58 mmol, 157 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | 6-Amino-9-benzyl-2-(2-hydroxyethoxy)purine | 121 mg, yield 70% | NC1=C2N=CN(C2=NC(=N1)OCCO)CC1=CC=CC=C1 | C14H15N5O2
